US04937373
A solution of 5.0 g (0.028 mol) of 3-(1-methylethyl)-1,2-dimethoxybenzene in 5 mL of methylene chloride was added to an ice cooled mixture of 4.4 g (0.033 mol) of aluminum chloride and 7.0 g (0.033 mol) of 6-bromohexanoyl chloride in 50 mL of methylene chloride. The reaction mixture was kept at 0° for 18 hours. Water was added and the organic layer was separated and washed with sodium bicarbonate solution. The dried extract was concentrated under reduced pressure to an oil which was purified by HPLC using 5% ethyl acetate-hexane to give 8.1 g (82% yield) of 6-bromo-1-[3,4-dimethoxy-5-(1-methylethyl)-phenyl]-1-hexanone as an oil. The nmr spectrum was consistent with the structure and the mass spectrum gave the molecular ion at m/z 356 (C17H25BrO3).

reactant | 3-(1-methylethyl)-1,2-dimethoxybenzene | 0.028 mol, 5.0 g | CC(C)C=1C(=C(C=CC1)OC)OC | C11H16O2
reactant | aluminum chloride | 0.033 mol, 4.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-bromohexanoyl chloride | 0.033 mol, 7.0 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | Water | O | H2O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-1-[3,4-dimethoxy-5-(1-methylethyl)-phenyl]-1-hexanone | 8.1 g, 82% yield | BrCCCCCC(=O)C1=CC(=C(C(=C1)C(C)C)OC)OC | C17H25BrO3
